*mat_array.cir


*Row Voltage Sources
V1 RowC_1 0 -5.000000
V3 RowC_2 0 -5.000000
V6 RowC_3 0 -5.000000
V10 RowC_4 0 -5.000000


*Row Current Sources
I1 I_1 0 -0.000000
I3 I_3 0 -0.000000
I6 I_6 0 -0.000000
I10 I_10 0 -0.000000


*Row 'Ammeter' Resistances
R41 RowC_1 MemRRow4 0.000000001000
R42 RowC_2 MemRRow7 0.000000001000
R43 RowC_3 MemRRow11 0.000000001000
R44 RowC_4 MemRRow16 0.000000001000


*Memristor Resistances
R14 MemRRow4 MemRCol4 25596.820783
R18 MemRRow8 MemRCol8 70643.051957
R113 MemRRow13 MemRCol13 24591.351797
R119 MemRRow19 MemRCol19 30503.631495
R17 MemRRow7 MemRCol7 43319.928130
R112 MemRRow12 MemRCol12 1557.110094
R118 MemRRow18 MemRCol18 16114.287022
R125 MemRRow25 MemRCol25 97853.270314
R111 MemRRow11 MemRCol11 38428.374914
R117 MemRRow17 MemRCol17 47886.496681
R124 MemRRow24 MemRCol24 24527.270314
R132 MemRRow32 MemRCol32 49528.203250
R116 MemRRow16 MemRCol16 47076.323644
R123 MemRRow23 MemRCol23 88341.747311
R131 MemRRow31 MemRCol31 7650.953994
R140 MemRRow40 MemRCol40 71102.302586


*Line Row Resistances
R24 MemRRow4 MemRRow8 1.000000
R28 MemRRow8 MemRRow13 1.000000
R213 MemRRow13 MemRRow19 1.000000
R219 MemRRow19 MemRRow26 1.000000
R27 MemRRow7 MemRRow12 1.000000
R212 MemRRow12 MemRRow18 1.000000
R218 MemRRow18 MemRRow25 1.000000
R225 MemRRow25 MemRRow33 1.000000
R211 MemRRow11 MemRRow17 1.000000
R217 MemRRow17 MemRRow24 1.000000
R224 MemRRow24 MemRRow32 1.000000
R232 MemRRow32 MemRRow41 1.000000
R216 MemRRow16 MemRRow23 1.000000
R223 MemRRow23 MemRRow31 1.000000
R231 MemRRow31 MemRRow40 1.000000
R240 MemRRow40 MemRRow50 1.000000


*Line Column Resistances
R34 MemRCol4 MemRCol7 1.000000
R38 MemRCol8 MemRCol12 1.000000
R313 MemRCol13 MemRCol18 1.000000
R319 MemRCol19 MemRCol25 1.000000
R37 MemRCol7 MemRCol11 1.000000
R312 MemRCol12 MemRCol17 1.000000
R318 MemRCol18 MemRCol24 1.000000
R325 MemRCol25 MemRCol32 1.000000
R311 MemRCol11 MemRCol16 1.000000
R317 MemRCol17 MemRCol23 1.000000
R324 MemRCol24 MemRCol31 1.000000
R332 MemRCol32 MemRCol40 1.000000
R316 MemRCol16 MemRCol22 1.000000
R323 MemRCol23 MemRCol30 1.000000
R331 MemRCol31 MemRCol39 1.000000
R340 MemRCol40 MemRCol49 1.000000


*Column 'Ammeter' Resistances
R51 MemRCol22 ColC_1 0.000000001000
R52 MemRCol30 ColC_2 0.000000001000
R53 MemRCol39 ColC_3 0.000000001000
R54 MemRCol49 ColC_4 0.000000001000


*Column Voltage Sources
V2 ColC_1 0 0.000000
V5 ColC_2 0 0.000000
V9 ColC_3 0 0.000000
V14 ColC_4 0 0.000000


*Column Current Sources
I2 I_2 0 -0.000000
I5 I_5 0 -0.000000
I9 I_9 0 -0.000000
I14 I_14 0 -0.000000


*Spice Directives
.op
*.backanno
.end
